US04308266
1,2,3,4-Tetrahydro-6-hydroxy-2-[4-(2-methoxyphenyl)-1-piperazinyl]-naphthalene
2.48 g of N,N-Di(2-chloroethyl)-2-methoxyaniline are dissolved together with 1.63 g of 2-amino-1,2,3,4-tetrahydro-6-hydroxynaphthalene in 100 ml of ethanol and finally refluxed for 20 hours. The solvent is evaporated off and the residue recrystallized from methanol/ether to yield the title compound. M.P. 282°-286° [Hydrochloride salt form].

reactant | N,N-Di(2-chloroethyl)-2-methoxyaniline | 2.48 g | ClCCN(C1=C(C=CC=C1)OC)CCCl | C11H15Cl2NO
reactant | 2-amino-1,2,3,4-tetrahydro-6-hydroxynaphthalene | 1.63 g | NC1CC2=CC=C(C=C2CC1)O | C10H13NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-6-hydroxy-2-[4-(2-methoxyphenyl)-1-piperazinyl]-naphthalene | OC=1C=C2CCC(CC2=CC1)N1CCN(CC1)C1=C(C=CC=C1)OC | C21H26N2O2
